Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___
 
___ Complaint:
Perirectal abscess
 
Major Surgical or Invasive Procedure:
Incision and drainage of perirectal abscess with placement of 
Malecot drain

 
History of Present Illness:
___ w hx HTN, HLD, CAD s/p MI (___), s/p ___
placement for R lateral fistula in ano (___) p/w R
sided perianal pain x 4 days. At time of EUA in ___, patient 
was
noted to have fistula in ano from R lateral position to 
posterior
midline through which ___ was placed. Another external
opening in the R posterolateral location was found to be blind
ending and a ___ drain placed to facilitate postoperative
drainage. Drain fell out as planned and patient never followed 
up
for definitive treatment. Reports that roughly every other week
he develops R sided perianal pain that is alleviated by
spontaneous drainage of purulent fluid. States that 4 days ago
began developing worsening pain and has not had any spontaneous
drainage on this occasion. Came to ED for evaluation. Surgery
consult obtained. 

On surgery eval, patient c/o severe R sided perianal pain.
Reports associated constipation with last BM 5 days ago. Also w
urinary retention/hesitancy. Denies fever, chills, chest pain,
shortness of breath, nausea, vomiting, blood per rectum. 
 
Past Medical History:
Illness: HTN, HLD, CAD c/b MI s/p PCI/stent (___), Hx 
perirectal
abscess s/p I&D (___)

PSH: I&D perirectal abscess (___), EUA, ___ placement
(___)

Medications: ASA 81', metoprolol succinate ER 25'

Allergies: NKDA

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.5 81 140/80 146 100% RA  
GEN: WD, WN in NAD
HEENT: NCAT, anicteric
CV: RRR
PULM: non-labored, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia
RECTAL: abscess site appears to be clean and draining via 
malecot. 
 
Pertinent Results:
___ 06:50AM BLOOD WBC-10.9*# RBC-3.79* Hgb-11.9* Hct-35.8* 
MCV-95 MCH-31.4 MCHC-33.2 RDW-12.7 RDWSD-43.8 Plt ___
___ 06:20AM BLOOD WBC-3.7*# RBC-4.05* Hgb-12.6* Hct-37.6* 
MCV-93 MCH-31.1 MCHC-33.5 RDW-12.3 RDWSD-42.4 Plt ___
___ 02:05PM BLOOD WBC-14.1* RBC-4.76 Hgb-14.7 Hct-43.9 
MCV-92 MCH-30.9 MCHC-33.5 RDW-12.5 RDWSD-42.5 Plt ___
___ 02:05PM BLOOD Neuts-81.5* Lymphs-8.1* Monos-9.4 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-11.52* AbsLymp-1.14* 
AbsMono-1.32* AbsEos-0.01* AbsBaso-0.04
___ 06:50AM BLOOD Plt ___
___ 06:20AM BLOOD Plt ___
___ 02:05PM BLOOD Plt ___
___ 02:05PM BLOOD Glucose-102* UreaN-15 Creat-0.7 Na-136 
K-3.9 Cl-100 HCO3-23 AnGap-17
___ 02:05PM BLOOD estGFR-Using this
___ 06:50AM BLOOD ALT-29 AST-32 AlkPhos-130 TotBili-0.4
___ 02:05PM BLOOD HoldBLu-HOLD
___ 02:05PM BLOOD LtGrnHD-HOLD
___ 02:17PM BLOOD Lactate-1.1
 
Brief Hospital Course:
On ___, Mr. ___ underwent an I & D of his perirectal 
abscess in the OR under general anesthesia. Almost 1L of pus was 
aspirated from the abscess. The prior ___ that had been in 
place since ___ was removed and a Malecot was placed. He 
tolerated the procedure well and was extubated in the recovery 
room. 

On ___, he was febrile to 101.6 and received 
acetaminophen 1g IV. He had a CXR ordered which showed no acute 
pneumonia. He also had blood cultures sent which are still 
pending as of ___. The gram stain shower gram positive 
cocci in pairs and clusters. The wound culture contained mixed 
bacterial types. He was started on Unasyn on ___ but after his 
abscess was drained, the Unasyn was stopped. 

He was discharged home with services on ___ with 
visitation from ___ on how to flush his Malecot. His Unasyn was 
also stopped before he went home. He was tolerating a regular 
diet, pain controlled and he was passing gas. 
 
Medications on Admission:
Aspirin 81 mg PO DAILY
Metoprolol Succinate ER 25mg Qday

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
2. Aspirin 81 mg PO DAILY 
3. Metoprolol Tartrate 12.5 mg PO BID 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone [Oxecta] 5 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Perirectal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
An abscess is a pocket of fluid near the rectum that becomes 
infected. The fluid usually occurs at the site of the anal 
glands that we all have. The fluid can become infected and 
require drainage.
Once they are drained, they start to feel better very quickly. 
Most heal completely. Thirty to fifty percent of abscesses 
either fail to heal over the next ___ weeks or recur at some 
point in your lifetime. The gland that started the infection may 
form a fistula, which is a small tunnel connecting the anal 
gland to the skin of the buttocks outside the anus. Keeping your 
follow-up appointment is important because it allows us to 
determine if you develop a fistula.

Wound Care
You have a malecot drain that is sutured securely on your 
buttocks in order to drain the abscess. This drain should be 
flushed every day for hygiene. 

The dressings that are in place may be removed the following 
morning or at the first bowel movement. Any packing can be 
removed at that time or while sitting in the tub. You should 
expect bloody, foul drainage for several days. This is not a 
sterile area, and no fancy dressings are required. Dressings 
mostly act to prevent staining of your undergarments. Feminine 
mini ___ pads may be easiest to use, and simple gauze pads 
are also OK. Limiting the use of tape may aid in your comfort.

You should begin warm soaks in the bathtub ___ tub after you 
remove the packing. These soaks may be helpful at relaxing the 
anal muscle spasms and thus decrease your pain. They may be done 
for ___ minutes at a time up to every four hours, but at least 
twice per day.
The warm soaks also allow for irrigation of the abscess cavity, 
which will help speed healing. When in the tub, gentle finger 
pressure can be applied to the skin around the abscess opening 
to make sure that it is still completely drained.

Cleansing after bowel movements must be performed gently. Baby 
wipes can be helpful at getting clean with little trauma. 
Flushable adult wipes are also available.
Avoid any “medicated wipes” as these may contain witch ___ or 
alcohol. They will cause discomfort. Wiping can be avoided all 
together if one goes directly to the warm soaks after a bowel 
movement. Nothing needs to be added to the water. Bubbles, oils, 
or Epsom salts may be added if this improves your comfort or 
sense of cleaning. The water should not be so hot as to risk a 
burn injury.

Bowel Regimen
It is often difficult to move your bowels after anal surgery. 
Pain and narcotic pain medications are constipating. It is 
important to keep the bowels moving. The stool only becomes 
harder if you do not move them for days. You should eat a 
regular healthy diet.
You should take an over-the counter stool softener (Colace 
[sodium docusate] 100 mg twice daily or Surfak [docusate 
calcium] 240 mg once daily) to keep the stools soft. It must be 
taken with ___ glasses of liquid throughout the day. You should 
also take one teaspoon dose of a fiber supplement (psyllium, 
Metamucil, Citrucel, Benefiber) daily to keep the bowels soft 
and moving. Fluids are also required for these to help. Gentle 
stimulant laxatives (milk of magnesia, dulcolax, senna) should 
be taken only if you have not moved your bowels for one or two 
days.

At times, all three of these (stool softener, fiber, and 
laxative) may be required to help the bowels. It is important 
not to take so much that you have diarrhea.
Activity No driving or working until off narcotic pain 
medications. Otherwise, you may return to work when you feel 
that you are able. Avoid activity that can cause direct trauma 
to the area. Your activity is limited mostly by your discomfort.
Pain Medication Pain should improve every day after the drainage 
of the abscess. No pains should be getting worse. Increased pain 
at the time of bowel movements is expected. Pain can be 
controlled with Tylenol, ibuprofen, or a prescription pain 
medication. No topical ointments or topical antibiotics are 
required. If you were given a prescription for antibiotic pills, 
please take them as directed.

NOTIFY THE DOCTOR IF ANY OF THE FOLLOWING OCCUR:
Fever greater than 101 degrees, swelling in the area, or 
increased pain, as these can be signs of infection. Heavy 
drainage is common from these wounds.
Inability to move your bowels despite the previous laxative 
recommendation
Inability to urinate. Pain and surgery can make it hard to void. 
Sometimes sitting in warm soaks helps to get started.
Heavy bleeding.
 
Followup Instructions:
___